US07678787B2
Step A. 4-Piperidin-1-ylbenzonitrile
A mixture of 4-fluorobenzonitrile (1 g, 8.26 mmol), piperidine (0.90 mL, 9.08 mmol) and potassium carbonate (2.28 g, 16.51 mmol) in dry 1-methyl-2-pyrrolidinone (10 mL) was stirred at 120° C. under nitrogen for 20 hours. The cooled reaction mixture was then diluted with water (100 mL) and extracted with ethyl acetate (100 mL). The organic extract was washed with water (100 mL) and brine (100 mL), dried over anhydrous magnesium sulfate, and concentrated in vacuo to afford an orange oil. Purification by flash chromatography using a solvent gradient of 1 to 7% ethyl acetate in hexane gave an orange oil that was crystallized from hexane to afford the title compound (1.41 g, 92%) as an orange crystalline solid, m.p. 54° C.

reactant | 4-fluorobenzonitrile | 8.26 mmol, 1 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | piperidine | 9.08 mmol, 0.90 mL | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 16.51 mmol, 2.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 100 mL | O | H2O
product | 4-Piperidin-1-ylbenzonitrile | 1.41 g, 92% | N1(CCCCC1)C1=CC=C(C#N)C=C1 | C12H14N2
